US07994209B2
(S)-3-[(S)-Cyclohexyl-(2,6-dichlorophenoxy)methyl]pyrrolidine
(S)-3-((R)-Cyclohexylhydroxymethyl)pyrrolidine-1-carboxylic acid t-butyl ester (190 mg, 670 μmmol), was combined with PPh3 (79 mg, 0.3 mmol), THF (0.2 mL), and 2,6-dichlorophenol (73 mg, 0.5 mmol). DIAD (59 μL, 0.3 mmol) was added and the mixture was allowed to stand at room temperature for 2 hours. EtOH (1.0 mL) and 4.0 N HCl in dioxane (0.5 mL, 2.0 mmol) were added, and the mixture was allowed to stand at room temperature overnight. The solvent was removed under reduced pressure, and the remaining material was dissolved in 50% AcOH (6 mL) and purified by preparative HPLC (1″ C18 column; 10-50% MeCN over 1 hour). The clean fractions were pooled and lyophilized to yield the title compound as a mono-TFA salt (37 mg, 95% purity). MS m/z: [M+H]+ calcd for C17H23Cl2NO, 328.12; found 328.4.

reactant | (S)-3-((R)-Cyclohexylhydroxymethyl)pyrrolidine-1-carboxylic acid t-butyl ester | 190 mg | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@H](O)C1CCCCC1 | C16H29NO3
reactant | PPh3 | 0.3 mmol, 79 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 2,6-dichlorophenol | 0.5 mmol, 73 mg | ClC1=C(C(=CC=C1)Cl)O | C6H4Cl2O
reactant | DIAD | 0.3 mmol, 59 μL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | HCl | 4.0 N | Cl | ClH
reactant | dioxane | 2.0 mmol, 0.5 mL | O1CCOCC1 | C4H8O2
solvent | EtOH | 1.0 mL | CCO | C2H6O
solvent | THF | 0.2 mL | C1CCOC1 | C4H8O
product | (S)-3-[(S)-Cyclohexyl-(2,6-dichlorophenoxy)methyl]pyrrolidine | C1(CCCCC1)[C@@H]([C@@H]1CNCC1)OC1=C(C=CC=C1Cl)Cl | C17H23Cl2NO
